US08541404B2
8-Bromo-1,2,5,6-tetrahydro-pyrrolo[3,2,1-ij]quinolin-4-one
To a solution of 1,2,5,6-tetrahydro-pyrrolo[3,2,1-ij]quinolin-4-one (10.0 g, 55.8 mmol) in 100 ml dry DMF was added dropwise a solution of N-bromosuccinimide (10.4 g, 58.6 mmol) in 150 ml dry DMF at 0° C. The mixture was stirred at 0° C. for 2 h, then 400 ml water was added and the solution was extracted with ethyl acetate (3×150 ml). The organic phase was washed with water (2×200 mL), then dried over MgSO4 and evaporated, affording a yellow solid, which was purified by crystallization from acetone/ether providing pure 8-bromo-1,2,5,6-tetrahydro-pyrrolo[3,2,1-ij]quinolin-4-one (12.8 g, 50.8 mmol, 91%) as pale yellow needles.

reactant | 1,2,5,6-tetrahydro-pyrrolo[3,2,1-ij]quinolin-4-one | 55.8 mmol, 10.0 g | C1CN2C(CCC3=CC=CC1=C23)=O | C11H11NO
reactant | N-bromosuccinimide | 58.6 mmol, 10.4 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | water | 400 ml | O | H2O
reactant | acetone ether | 50.8 mmol, 12.8 g | CC(=O)C.CCOCC
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
product | 8-Bromo-1,2,5,6-tetrahydro-pyrrolo[3,2,1-ij]quinolin-4-one | BrC=1C=C2CCC(N3C2=C(C1)CC3)=O | C11H10BrNO
